US06002008
N-{4-[(3-Chlorophenyl)amino]-3-cyano-6-quinolinyl]-2-butynamide
Dissolved 428 mg (5.09 mmol) 2-butynoic acid in 40 ml THF and chilled to 0° C. under N2. Added 560 μl (5.09 mmol) N-methylmorpholine and 662 μl (5.09 mmol) isobutyl chloroformate and stirred for 10 minutes. Added dropwise a solution of 1.00 g (3.39 mmol) 6-amino-4-[(3-chlorophenyl)amino]-3-quinolinecarbonitrile in 2 ml DMF and 20 ml THF. Removed ice bath at 15 minutes and stirred at 25° C. overnight. Stripped solvent, slurried residue with water and collected solids. Boiled in ethyl acetate, collected and dried in vacuo, giving 975 mg of yellow solid: mass spectrum (electrospray m/e): M+H=361.1, 363.2.

reactant | 2-butynoic acid | 5.09 mmol, 428 mg | C(C#CC)(=O)O | C4H4O2
reactant | N-methylmorpholine | 5.09 mmol, 560 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.09 mmol, 662 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-chlorophenyl)amino]-3-quinolinecarbonitrile | 3.39 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Cl | C16H11ClN4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{4-[(3-Chlorophenyl)amino]-3-cyano-6-quinolinyl]-2-butynamide | 975 mg | ClC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CC)=O)C#N | C20H13ClN4O
